US07834019B2
1) Production of 2-allyl-6-(methylthio)-1-pyridin-2-yl-3H-pyrazolo[3,4-d]pyrimidin-3-one
2.4 mL of N,N′-dimethylethylenediamine was added to 1,4-dioxane (50 mL) solution of 4.44 g of 2-allyl-6-(methylthio)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one, 3.80 g of copper(I) iodide, 5.33 g of 2-iodopyridine and 3.80 g of potassium carbonate, and stirred overnight at 95° C. The reaction liquid was cooled, aqueous ammonia was added thereto and extracted with ethyl acetate, washed with saturated saline water and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and crystallized with ethyl acetate to obtain 5.15 g of the entitled compound as a white solid.

reactant | N,N′-dimethylethylenediamine | 2.4 mL | CNCCNC | C4H12N2
reactant | 2-allyl-6-(methylthio)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one | 4.44 g | C(C=C)N1NC2=NC(=NC=C2C1=O)SC | C9H10N4OS
reactant | 2-iodopyridine | 5.33 g | IC1=NC=CC=C1 | C5H4IN
reactant | potassium carbonate | 3.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonia | N | H3N
catalyst | copper(I) iodide | 3.80 g | [Cu]I
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-allyl-6-(methylthio)-1-pyridin-2-yl-3H-pyrazolo[3,4-d]pyrimidin-3-one | 5.15 g | C(C=C)N1N(C2=NC(=NC=C2C1=O)SC)C1=NC=CC=C1 | C14H13N5OS
